US05068064
A) (4-Benzylpiperidino)acetonitrile
40.8 ml of triethylamine and 22.2 g of chloroacetonitrile are dissolved in 180 ml of toluene, and 51.6 g of 4-benzylpiperidine are then added dropwise all at once.

reactant | triethylamine | 40.8 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 22.2 g | ClCC#N | C2H2ClN
reactant | 4-benzylpiperidine | 51.6 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | (4-Benzylpiperidino)acetonitrile | C(C1=CC=CC=C1)C1CCN(CC1)CC#N | C14H18N2
